US04075199
The 1-t-butylazo-1-(t-amylperoxy)cyclohexane was prepared in 85% crude yield from 7.5 grams (.037 moles) of 1-t-butylazo-1-chlorocyclohexane, 6.0 grams (.052 moles) of 90% t-amyl hydroperoxide and 9.1 grams (.0407 moles) of 25% potassium hydroxide solution. The procedure was the same as that described in Example XX. The infrared spectrum of the product indicated there was a small amount of 1-t-butylazo-1-hydroxycyclohexane present in the product.

reactant | 1-t-butylazo-1-chlorocyclohexane | .037 moles, 7.5 grams | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
reactant | t-amyl hydroperoxide | .052 moles, 6.0 grams | C(C)(C)(CC)OO | C5H12O2
reactant | potassium hydroxide | .0407 moles, 9.1 grams | [OH-].[K+]
reactant | 1-t-butylazo-1-hydroxycyclohexane | C(C)(C)(C)N=NC1(CCCCC1)O | C10H20N2O
product | 1-t-butylazo-1-(t-amylperoxy)cyclohexane | C(C)(C)(C)N=NC1(CCCCC1)OOC(C)(C)CC | C15H30N2O2
